US04873236
2-[2-[(Dimethylamino)methyl]-piperidin-1-yl]acetamide
from 4-[3-(piperidin-1-yl)propyl]piperidine and iodoacetamide in a yield of 96% of theory, 2-[4-[3-(piperidin-1-yl)propyl]-piperidin-1-yl]acetamide, m.p. 94°-97° C.

reactant | 4-[3-(piperidin-1-yl)propyl]piperidine | N1(CCCCC1)CCCC1CCNCC1 | C13H26N2
reactant | iodoacetamide | ICC(=O)N | C2H4INO
reactant | 2-[4-[3-(piperidin-1-yl)propyl]-piperidin-1-yl]acetamide | N1(CCCCC1)CCCC1CCN(CC1)CC(=O)N | C15H29N3O
product | 2-[2-[(Dimethylamino)methyl]-piperidin-1-yl]acetamide | CN(C)CC1N(CCCC1)CC(=O)N | C10H21N3O
